US05008426
4. 6-(4-methylbenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide
30.8 g (0.2 mol) of 4-methylbenzoyl chloride were warmed to 80° C. under a nitrogen atmosphere. 46 g (0.2 mol) of 6-methoxy-(6H)-dibenz[c,e][1,2]-oxaphosphorin 6-oxide were added dropwise over the course of 1 hour while stirring. The temperature was then slowly increased to 110° C. When the reaction was complete, the residue slowly crystallized out at room temperature. 60 g (90% of theory) of the abovementioned compound, which, after recrystallization from toluene, had a melting point of 124 to 125% C. were obtained.

reactant | 4-methylbenzoyl chloride | 0.2 mol, 30.8 g | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | 6-methoxy-(6H)-dibenz[c,e][1,2]-oxaphosphorin 6-oxide | 0.2 mol, 46 g | COP1(OC2=C(C3=C1C=CC=C3)C=CC=C2)=O | C13H11O3P
product | 6-(4-methylbenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide | CC1=CC=C(C(=O)P2(OC3=C(C4=C2C=CC=C4)C=CC=C3)=O)C=C1 | C20H15O3P
